US06787652B1
2-{3-Chloro-4-[3-(4-fluoro-benzoyl)-4-methoxy-phenoxy]-5-methyl-phenyl}-2H-[1,2,4]triazine-3,5-dione
A solution of 2-{3-chloro-4-[4-methoxy-phenoxy]-5-methyl-phenyl}-2H-[1,2,4]triazine-3,5-dione (1.2 g) and p-fluorobenzoic acid (0.8 g) in Eaton's acid (5 mL) was heated at 60° C. for 4 h. The resulting red solution was cooled to 0° C., water (30 mL) added and the suspension stirred at room temperature for 30 min. The mixture was extracted with ethyl acetate (2×), the combined organic layers washed with saturated aqueous sodium bicarbonate, dried (Na2SO4), concentrated in vacuo and flashed chromatographed on silica gel (25-40% THF/hexanes) to afford the title compound of Step A as a off-white foam, 1.1 g. MS Calc.:481.9; Found:481.8.

reactant | 2-{3-chloro-4-[4-methoxy-phenoxy]-5-methyl-phenyl}-2H-[1,2,4]triazine-3,5-dione | 1.2 g | ClC=1C=C(C=C(C1OC1=CC=C(C=C1)OC)C)N1N=CC(NC1=O)=O | C17H14ClN3O4
reactant | p-fluorobenzoic acid | 0.8 g | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
solvent | water | 30 mL | O | H2O
product | 2-{3-Chloro-4-[3-(4-fluoro-benzoyl)-4-methoxy-phenoxy]-5-methyl-phenyl}-2H-[1,2,4]triazine-3,5-dione | ClC=1C=C(C=C(C1OC1=CC(=C(C=C1)OC)C(C1=CC=C(C=C1)F)=O)C)N1N=CC(NC1=O)=O | C24H17ClFN3O5
